US06924391B2
3-[4-(3-Methanesulfonyloxypropyl)phenoxy]-1-[4-(tert-butoxycarbonyl)phenoxy]-3-methyl-2-butanone
A solution of 3-[4-(3-hydroxypropyl)phenoxy]-1-[4-(tert-butoxycarbonyl)phenoxy]-3-methyl-2-butanone (0.312 g, 0.73 mmol) in dry dichloromethane (15 ml) was cooled to 0-5° C. and treated with triethylamine (0.23 ml, 1.65 mmol) followed with methanesulfonyl chloride (0.10 ml, 1.29 mmol) added dropwise over 2 minutes. The reaction mixture was stirred at 0° C. for 45 minutes and then quenched by the addition of ethyl acetate and water. The organic phase was washed with brine, dried (magnesium sulfate) and concentrated. The residue was chromatographed on silica gel (elution toluene-ethyl acetate, 85:15) to give 0.369 g (100%) of the title material as a clear oil.

reactant | 3-[4-(3-hydroxypropyl)phenoxy]-1-[4-(tert-butoxycarbonyl)phenoxy]-3-methyl-2-butanone | 0.73 mmol, 0.312 g | OCCCC1=CC=C(OC(C(COC2=CC=C(C=C2)C(=O)OC(C)(C)C)=O)(C)C)C=C1 | C25H32O6
reactant | triethylamine | 1.65 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.29 mmol, 0.10 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-[4-(3-Methanesulfonyloxypropyl)phenoxy]-1-[4-(tert-butoxycarbonyl)phenoxy]-3-methyl-2-butanone | 0.369 g, 100% | CS(=O)(=O)OCCCC1=CC=C(OC(C(COC2=CC=C(C=C2)C(=O)OC(C)(C)C)=O)(C)C)C=C1 | C26H34O8S
